US06245790B1
To a solution of (1R,2S)-1-(4,5-diphenyloxazol-2-yl)-1,2-epoxycyclohexane (20 g) and CuBr (3.0 g) in tetrahydrofuran (400 ml) was dropwise added a solution of 3-methoxybenzylmagnesium chloride [prepared from 3-methoxy-benzylchloride (50 g) and Mg (9.2 g)] in tetrahydrofuran (500 ml) at −78° C. under N2. The mixture was stirred for 2 hours at the room temperature and partitioned between ethyl acetate and water. The organic layer was washed with 1N-HCl, water, sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give (1R,2S)-1-(4,5-diphenyloxazol-2-yl)-1-hydroxy-2-(3-methoxybenzyl)cyclohexane (29.2 g).

reactant | (1R,2S)-1-(4,5-diphenyloxazol-2-yl)-1,2-epoxycyclohexane | 20 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@]12[C@H](CCCC1)O2 | C21H19NO2
reactant | 3-methoxybenzylmagnesium chloride | 50 g | COC=1C=C(C[Mg]Cl)C=CC1
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | (1R,2S)-1-(4,5-diphenyloxazol-2-yl)-1-hydroxy-2-(3-methoxybenzyl)cyclohexane | 29.2 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@]1([C@@H](CCCC1)CC1=CC(=CC=C1)OC)O | C29H29NO3
